US08536179B2
9d) 3-(Aminomethyl)-6-cyclopropyl-4-methyl-2(1H)-pyridinone hydrochloride
1,1-Dimethylethyl[(6-cyclopropyl-4-methyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]carbamate (0.28 g, 1.006 mmol) was added to EtOAc (9 mL) and methanol (1.0 mL). The suspension was stirred at room temperature for 5 min, followed by addition of 4 M HCl in dioxane (5.03 mL, 20.12 mmol), and the contents were stirred at room temperature overnight. The volatiles were then removed in vacuo to afford a solid. The solid was triturated with ether, filtered, and dried in a vacuum oven at 45° C. for 4 h. The title compound was collected (0.22 g, 100% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.78-0.86 (m, 2H), 0.95-1.03 (m, 2H), 1.83 (tt, J=8.46, 5.05 Hz, 1H), 2.16-2.22 (m, 3H), 3.75 (q, J=5.47 Hz, 2H), 5.79 (s, 1H), 8.02 (br. s., 3H), 11.92 (br. s., 1H).

reactant | 1,1-Dimethylethyl[(6-cyclopropyl-4-methyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]carbamate | 1.006 mmol, 0.28 g | CC(C)(C)N(C([O-])=O)CC=1C(NC(=CC1C)C1CC1)=O
reactant | EtOAc | 9 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 20.12 mmol, 5.03 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-(Aminomethyl)-6-cyclopropyl-4-methyl-2(1H)-pyridinone hydrochloride | 100% yield | Cl.NCC=1C(NC(=CC1C)C1CC1)=O | InChI=1S/C10H14N2O.ClH/c1-6-4-9(7-2-3-7)12-10(13)8(6)5-11;/h4,7H,2-3,5,11H2,1H3,(H,12,13);1H
